US09259470B2
Potassium 2-methylpropan-2-olate (135 mg, 1.20 mmol), tetrabutylammonium iodide (67 mg, 0.18 mmol), and a solution of 3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butyl methanesulfonate (0.75 mmol) in anhydrous THF (15 mL) were added to a suspension of 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (163 mg, 0.600 mmol) in anhydrous THF (5.0 mL). The resulting mixture was stirred at 95° C. under microwave irradiation for 2 hours. The reaction was quenched with water (20 mL). The mixture was further diluted with DCM. After removal of the insoluble by filtration, the filtrate was extracted with DCM. The combined organic phases were dried over Na2SO4 and concentrated. The residue was purified by Combiflash (0.5% NH3HCO3/CH3CN) to afford 1-(3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (80 mg, 26% yield). LCMS (ESI) m/z: 587.2 [M+H]+.

reactant | Potassium 2-methylpropan-2-olate | 1.20 mmol, 135 mg | CC(C)(C)[O-].[K+]
reactant | 3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butyl methanesulfonate | 0.75 mmol | CS(=O)(=O)OC(CC(C)O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F | C17H28ClFO4SSi
reactant | 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.600 mmol, 163 mg | O1CCC(CC1)NC1=NC=CC(=N1)C1=CC(NC=C1)=O | C14H16N4O2
catalyst | tetrabutylammonium iodide | 0.18 mmol, 67 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-(3-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)butyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 80 mg, 26% yield | [Si](C)(C)(C(C)(C)C)OC(CC(C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)C | C30H40ClFN4O3Si
